### PR TITLE
[Merged by Bors] - refactor: remove `Sym2`'s global `Prod` setoid instance, use `s(x, y)` notation for unordered pairs

### PR DESCRIPTION
**Pull request by kmill**
The `Sym2` type used a global setoid instance on `α × α` so that `⟦(x, y)⟧` could stand for an unordered pair using standard `Quotient` syntax. This commit refactors `Sym2` to not use `Quotient` and instead use its own `s(x, y)` notation. One benefit to this is that this notation produces a term with type `Sym2` rather than `Quotient`.

The `Fintype` instance for `Sym2` is in `Mathlib.Data.Finset.Sym`. We switch from using the one for `Quotient` because it does not require `DecidableEq`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Sym/Sym2.lean [hunk 1]
```diff
@@ -100,101 +99,124 @@ It is equivalent in a natural way to multisets of cardinality 2 (see
 `Sym2.equivMultiset`).
 -/
 @[reducible]
-def Sym2 (α : Type u) :=
-  Quotient (Sym2.Rel.setoid α)
+def Sym2 (α : Type u) := Quot (Sym2.Rel α)
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2.lean:102]: I don't understand what the gain of moving from `Quotient` to `Quot` is here; it looks like it just makes less API available...

(I agree with the move of de-instancing the `Setoid` instance and the new notation)

Comment (kmill) [reply Mathlib/Data/Sym/Sym2.lean:102]: I strongly believe that any type defined using a quotient needs to recapitulate part of the quotient API so that it can ensure that there is no API leak.

The big problem with using the `Quotient` or `Quot` APIs on a type that happens to be defined using them is that (1) they change the type of the term from (for example) `Sym2` to `Quotient`, (2) they use the constructor `Quotient.mk` instead of `Sym2.mk` (again, changing the type), (3) they use non-informative `Setoid.r` for the relation rather than `Sym2.Rel`. With that last point, it's hard writing these `Quotient` relation terms yourself when there's no global Setoid instance.

I am not sure what the `Quotient` API gives us that the `Quot` API couldn't -- the main one is `Quotient.eq`, but in the long run I'm imagining quotients would be more convenient if `Quot` had lemmas that could take a class version of `Equivalence`. That way relations wouldn't unnecessarily get turned into their `Setoid`-bundled forms.

One other reason I switched from `Quotient` to `Quot` is to disable the `⟦(x, y)⟧` notation.

You'll notice that in practice we can still use `Quotient` API by passing in a setoid. There's even a place where I temporarily enable the `Setoid` instance to use it. Other places I switched to `Quot` where it was more convenient, and I added `Sym2` versions of recursors just to keep the types nice. (There's also the small point that the `Quot` recursors are missing `@[elab_as_elim]`, which needs to be fixed in core.)

File: Mathlib/Data/Finset/Sym.lean [hunk 2]
```diff
@@ -133,11 +133,12 @@ theorem sym2_eq_image : s.sym2 = (s ×ˢ s).image (Quotient.mk _) := by
     obtain ⟨h, (⟨rfl, rfl⟩ | ⟨rfl, rfl⟩)⟩ := h
       <;> simp [h]
 
-theorem isDiag_mk_of_mem_diag {a : α × α} (h : a ∈ s.diag) : Sym2.IsDiag ⟦a⟧ :=
+theorem isDiag_mk_of_mem_diag {a : α × α} (h : a ∈ s.diag) : Sym2.IsDiag (Sym2.mk a) :=
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Sym.lean:136]:
```suggestion
theorem isDiag_mk_of_mem_diag {a : α × α} (h : a ∈ s.diag) : (Sym2.mk a).IsDiag :=
```

File: Mathlib/Data/Finset/Sym.lean [hunk 3]
```diff
@@ -133,11 +133,12 @@ theorem sym2_eq_image : s.sym2 = (s ×ˢ s).image (Quotient.mk _) := by
...
   (Sym2.isDiag_iff_proj_eq _).2 (mem_diag.1 h).2
 #align finset.is_diag_mk_of_mem_diag Finset.isDiag_mk_of_mem_diag
 
-theorem not_isDiag_mk_of_mem_offDiag {a : α × α} (h : a ∈ s.offDiag) : ¬Sym2.IsDiag ⟦a⟧ := by
+theorem not_isDiag_mk_of_mem_offDiag {a : α × α} (h : a ∈ s.offDiag) :
+    ¬Sym2.IsDiag (Sym2.mk a) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Sym.lean:141]:
```suggestion
    ¬ (Sym2.mk a).IsDiag := by
```

File: Mathlib/Combinatorics/SimpleGraph/DegreeSum.lean [hunk 4]
```diff
@@ -5,6 +5,7 @@ Authors: Kyle Miller
 -/
 import Mathlib.Combinatorics.SimpleGraph.Basic
 import Mathlib.Algebra.BigOperators.Basic
+import Mathlib.Data.Finset.Sym
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/DegreeSum.lean:8]: Why do we need this extra import?

Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/DegreeSum.lean:8]: It brings in `Sym2.instFintype`

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/DegreeSum.lean:8]: Hmm okay sure, but why do we suddenly need `Sym2.instFintype` here?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/DegreeSum.lean:8]: Ah, is it because you can't use the `Quotient` instance anymore? Worth mentioning in the description.

Comment (eric-wieser) [reply Mathlib/Combinatorics/SimpleGraph/DegreeSum.lean:8]: Isn't that typeclass version `HasEquiv`?

Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/DegreeSum.lean:8]: No, [that's](https://github.com/leanprover/lean4/blob/b0fe9d6cdca82723134d61f8fe23a8c674f308b7/src/Init/Core.lean#L338-L341) a notation typeclass.

I mean this:
```lean
class IsEquivalence {α : Type*} (r : α → α → Prop) : Prop where
  equivalence : Equivalence r
```

**Review by jcommelin — APPROVED** [review]
I'm going to kick this on the queue. The diff has net size close to zero. Outside the API file on sym2, it really cleans up some type-mess. The file on sym2 itself now duplicates some `Quotient` API. Maybe that can be done in a better way in the future. But that doesn't have to block this PR.

bors merge
